US07345049B2
Process 1 Synthesis of 4-[(2-amino-5-iodobenzoyl)amino]-N-(2,6-dichlorobenzoyl)-L-phenylalanine isopropylester
4-Amino-N-(2,6-dichlorobenzoyl)-L-phenylalanine Isopropylester, 1-hydroxybenzotriazole monohydrate (11.5 g) and 5-iodoanthranilic acid (17.8 g) were dissolved in dimethylformamide (200 mL) and cooled down to 0° C. 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (13.7 g) was added thereto and stirred at room temperature for 16 hours. The organic layer wherein ethyl acetate (1 L) was added was washed with 0.1N sodium hydroxide aqueous solution (200 mL, 100 mL), water (100 mL), 0.1N hydrochloric acid (200 mL) and saturated aqueous solution of sodium chloride (200 mL, 100 mL), respectively. After drying the organic layer over anhydrous sodium sulfate and removing the solvent, a solid material obtained from a mixed solvent of methylene chloride and hexane was filtered to obtain the title compound.

reactant | 4-Amino-N-(2,6-dichlorobenzoyl)-L-phenylalanine Isopropylester | C(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)N)=O | C19H20Cl2N2O3
reactant | 1-hydroxybenzotriazole monohydrate | 11.5 g | O.ON1N=NC2=C1C=CC=C2
reactant | 5-iodoanthranilic acid | 17.8 g | IC1=CC=C(C(C(=O)O)=C1)N | C7H6INO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 13.7 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 4-[(2-amino-5-iodobenzoyl)amino]-N-(2,6-dichlorobenzoyl)-L-phenylalanine isopropylester | C(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)I)N)=O)=O | C26H24Cl2IN3O4
